US08455488B2
Synthesis of 4-(4-chlorobenzyl)-1-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1,4-dioxo-4-(tritylamino)butan-2-ylamino)-2-oxoethyl)-1-methylsemicarbazide (Compound II-34)
According to the procedure described in the synthesis method of Compound II-15, 2-(2-(4-chlorobenzylcarbamoyl)-1-methylhydrazinyl)acetic acid (Compound VI-7) 63 mg (0.23 mmol) was coupled with (S)-2-amino-N1—((S)-1,1-diethoxypropan-2-yl)-N1-(naphthalen-1-ylmethyl)-N4-tritylsuccinamide (Compound IV-19) 100 mg (0.16 mmol) to obtain the title compound.

reactant | 2-(2-(4-chlorobenzylcarbamoyl)-1-methylhydrazinyl)acetic acid | 0.23 mmol, 63 mg | ClC1=CC=C(CNC(=O)NN(C)CC(=O)O)C=C1 | C11H14ClN3O3
reactant | (S)-2-amino-N1—((S)-1,1-diethoxypropan-2-yl)-N1-(naphthalen-1-ylmethyl)-N4-tritylsuccinamide | 0.16 mmol, 100 mg | N[C@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)[C@H](C(OCC)OCC)C)CC(=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C41H45N3O4
product | 4-(4-chlorobenzyl)-1-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1,4-dioxo-4-(tritylamino)butan-2-ylamino)-2-oxoethyl)-1-methylsemicarbazide | ClC1=CC=C(CNC(NN(C)CC(=O)N[C@H](C(=O)N(CC2=CC=CC3=CC=CC=C23)[C@H](C(OCC)OCC)C)CC(NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O)C=C1 | C52H57ClN6O6
